Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8],5.54698662193
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:10].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],4.52081163596
[C:10]([H:11])[H:12].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.31732899622
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:11]([H:12])([H:13])[H:14].[C:7]([H:8])([H:9])[H:10],3.98836239578
[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]1[C:5]([H:6])([H:7])[C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],0.639308169561
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10].[O:1]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10],-2.13135496623
[H:9].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8][H:9],-3.727307851780001
[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.614122775299999
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:11]([H:12])([H:13])[H:14].[O:9][H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.07368028287
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7](#[C:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])[H:6],1.25847973328
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-3.9877482445
[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.3076312841
[H:1][C:2]#[C:3][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.86968212817
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-1.58112390873
[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])=[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.47829280405
[C:6]([H:7])[H:8].[H:1][O:2][C@@:3]([H:4])([C:5]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-6.23256838801
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],4.9810459572
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-4.11595860561
[C:1]#[C:2][C:3](=[C:4][H:5])[C:6]#[C:8][H:9].[H:7]>>[C:1]#[C:2][C:3](=[C:4][H:5])[C:6]([H:7])=[C:8][H:9],-2.20029877856
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12]1>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[O:12][C:11],2.94923737425
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[H:8].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7],4.406334858409999
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:10][H:11].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11],-1.85328904053
[C:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.3480249296599975
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10],4.05448474241
[H:10].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-2.01408480437
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]=[O:6]>>[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10],-3.81364364824
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.4082106340400005
